US08030311B2
2-(2,6-Dichloro-4-imidazo[4,5-b]pyridin-3-yl-phenyl)-N-[4-(4-isopropyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-acetamide
The title compound is prepared as described in Example 7 but using (2,6-dichloro-4-imidazo[4,5-b]pyridin-3-yl-phenyl)acetic acid and 4-(4-isopropyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenylamine (WO 03/099771). Title compound: ES-MS: 604.9/606.9 [M+H]+; tR=3.89 min (System 1); Rf=0.23 (CH2Cl2/(2N NH3 in MeOH), 95:5).

reactant | (2,6-dichloro-4-imidazo[4,5-b]pyridin-3-yl-phenyl)acetic acid | ClC1=C(C(=CC(=C1)N1C=NC=2C1=NC=CC2)Cl)CC(=O)O | C14H9Cl2N3O2
reactant | 4-(4-isopropyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenylamine | C(C)(C)N1CCN(CC1)CC1=C(C=C(C=C1)N)C(F)(F)F | C15H22F3N3
solvent | CH2Cl2 | 2N | C(Cl)Cl | CH2Cl2
product | 2-(2,6-Dichloro-4-imidazo[4,5-b]pyridin-3-yl-phenyl)-N-[4-(4-isopropyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-acetamide | ClC1=C(C(=CC(=C1)N1C=NC=2C1=NC=CC2)Cl)CC(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C(C)C)C(F)(F)F | C29H29Cl2F3N6O
